US04588746
A solution of N-methyl-N-acetyl-2-benzyl-3-(4-methylthiophenoxy)propylamine (12.6 g) in dry ether (100 ml) is added dropwise to a stirred suspension of lithium aluminum hydride (4.0 g) in dry ether (250 ml). The reaction mixture is refluxed for 18 hours, and cooled to 0°. Water (3 ml) is added cautiously, followed by 15% sodium hydroxide (3 ml), and water (9 ml). The inorganic salts are filtered off, washed with ether (150 ml) and the combined ether solutions are dried over magnesium sulfate. The solvent is removed under reduced pressure to give N-methyl-N-ethyl-2-benzyl-3-(4-methylthiophenoxy)propylamine.

reactant | N-methyl-N-acetyl-2-benzyl-3-(4-methylthiophenoxy)propylamine | 12.6 g | CN(C(C)=O)CC(CSC1=CC=C(C=C1)C)CC1=CC=CC=C1 | C20H25NOS
reactant | lithium aluminum hydride | 4.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 3 ml | O | H2O
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | water | 9 ml | O | H2O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 250 ml | CCOCC | C4H10O
product | N-methyl-N-ethyl-2-benzyl-3-(4-methylthiophenoxy)propylamine | CN(CC)CC(CSC1=CC=C(C=C1)C)CC1=CC=CC=C1 | C20H27NS
